US05013864
2-Methylpropoxyacetic acid
Sodium hydride (1.72 g of 60% NaH in oil=1.03 g, 43 mmol) in oil dispersion was washed twice with 10 ml of hexane. THF was added (10 ml) and the mixture was cooled to -15° C. A solution of 2-methyl propanol (2.5 g, 35 mmol) in THF was then added, and the mixture was warmed to 25° C. for 1 hour. The THF was removed by distillation under vacuum and a solution of sodium chloroacetate (5.2 g, 45 mmol) in DMSO (100 ml) was added. The mixture was stirred at room temperature for 20 hours, then diluted with 300 ml. of water. The mixture was extracted twice with 50 ml. of hexane. The agueous phase was acidified with 4 N hydrochloric acid and the product was extracted twice with 100 ml. of ethyl acetate. The combined ethyl acetate layers were washed twice with 100 ml. water, dried over MgSO4, filtered, and the solvent was removed by distillation under reduced pressure to give 4.6g of product as a colorless oil. Yield of product=99.6%.

reactant | Sodium hydride | 43 mmol, 1.72 g | [H-].[Na+]
reactant | 2-methyl propanol | 35 mmol, 2.5 g | CC(CO)C | C4H10O
reactant | sodium chloroacetate | 45 mmol, 5.2 g | ClCC(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 2-Methylpropoxyacetic acid | 4.6g | CC(COCC(=O)O)C | C6H12O3
